US06369281B1
BEPD was prepared by a semi-batch process out of 2-ethylhexanal (2-EH), having a purity of over 90 weight-%, and formaline. The concentration of the formaline aqueous solution was 37 weight-% HCHO and it contained 10 weight-% CH3OH. First, 1207 g (9.225 moles) of 2-EH and 1911 g (23.546 moles) of HCHO were fed into the reactor to make up the reaction mixture, after which 927 g (11.125 moles) in total of sodium hydroxide was fed into the reaction mixture. The concentration of the sodium hydroxide aqueous solution was 48 weight-%, and it was fed for 6 hours at three input rates, namely 93 g/h (1.1161 moles per hour) during the first hour of the reaction (beginning at time T1), 135 g/h of NaOH (1.6201 moles/h; beginning at time T2) during the following two hours and, finally, 188 g/h (2.2562 moles/h; beginning at time T3) during the third to the 6th hour.

reactant | 2-ethylhexanal | C(C)C(C=O)CCCC | C8H16O
reactant | formaline | C=O | CH2O
reactant | 2-EH | 9.225 moles, 1207 g | C(C)C(C=O)CCCC | C8H16O
reactant | HCHO | 23.546 moles, 1911 g | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | CH3OH | CO | CH4O
product | BEPD | CCCCC(CC)(CO)CO | C9H20O2
